US09315491B2
5-Ethoxy-pyrimidine-2,4-diol
A mixture of ethyl ethoxylacetate (20 g, 1.0 eq) and ethyl formate (11.21 ml, 1.0 eq) was added dropwise to a slurry of sodium ethoxide (10.3 g, 1.0 eq) in toluene (100 ml) in ice both. After dropping at room temperature and stirring overnight, the resulting solution was dried in vacuo. Then a mixture of residue, urea (9.09 g, 1.0 eq) and sodium ethoxide (10.3 g, 1.0 eq) in EtOH (100 ml) was refluxed at 110° C. for 6 hrs. After the solvent was dried in vacuo, water and conc. HCl solution (5<pH<4) were added. After formation of white precipitates, the mixture was filtered and dried solid in vacuo. A product was obtained as a white solid (7.76 g, 32%)

reactant | ethyl ethoxylacetate | 20 g, 1.0 eq | O(CC)CC(=O)OCC | C6H12O3
reactant | ethyl formate | 11.21 ml, 1.0 eq | C(=O)OCC | C3H6O2
reactant | sodium ethoxide | 10.3 g, 1.0 eq | [O-]CC.[Na+]
reactant | urea | 9.09 g, 1.0 eq | NC(=O)N | CH4N2O
reactant | sodium ethoxide | 10.3 g, 1.0 eq | [O-]CC.[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 100 ml | CCO | C2H6O
product | 5-Ethoxy-pyrimidine-2,4-diol | 7.76 g, 32% | C(C)OC=1C(=NC(=NC1)O)O | C6H8N2O3
